US07208450B2
Step A Synthesis of N-[2,4-bis(phenylmethoxy)phenyl]-2,2,2-trifluoroacetamide as an Intermediate
A solution of 1.7 grams (0.0055 mole) of 2,4-bis(phenylmethoxy)phenylamine (known compound) in 50 mL of THF was stirred and 0.8 mL (0.0055 mole) of trifluoroacetic anhydride was added. Upon completion of addition, 0.92 mL (0.0066 mole) of triethylamine was added dropwise during a one-hour period. Upon completion of addition the reaction mixture was warmed to reflux where it stirred for three hours. After this time the reaction mixture was cooled and concentrated under reduced pressure to a residue. The residue was taken up in 50 mL of water and extracted with three 50 mL portions of diethyl ether. The combined extracts were dried with sodium sulfate, filtered, and concentrated under reduced pressure to a residue. The residue was purified with column chromatography on silica gel using 1:1 methylene chloride:hexane as an eluant. The appropriate fractions were combined and concentrated under reduced pressure, yielding 1.7 grams of the subject compound. The NMR spectrum was consistent with the proposed structure.

reactant | 2,4-bis(phenylmethoxy)phenylamine | 0.0055 mole, 1.7 grams | C1(=CC=CC=C1)COC1=C(C=CC(=C1)OCC1=CC=CC=C1)N | C20H19NO2
reactant | trifluoroacetic anhydride | 0.0055 mole, 0.8 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | triethylamine | 0.0066 mole, 0.92 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | N-[2,4-bis(phenylmethoxy)phenyl]-2,2,2-trifluoroacetamide | 1.7 grams | C1(=CC=CC=C1)COC1=C(C=CC(=C1)OCC1=CC=CC=C1)NC(C(F)(F)F)=O | C22H18F3NO3
